US08198272B2
N,N-Diethyl-3,6-dichloropyridazine-4-carboxamide
3,6-Dichloropyridazine-4-carbonyl chloride (2.5 g) was initially charged in DCM (25 ml) at RT. Thereafter, diethylamine (1.5 ml) predissolved in DCM (5 ml) was slowly added dropwise while stirring. After stirring at RT for 3 h, the mixture was admixed with water and extracted three times with DCM. The combined DCM phases were dried over sodium sulfate, filtered and concentrated. The residue was purified by means of silica gel (70 g cartridge, n-heptane/EA gradient). 1.8 g of the title compound were obtained.

reactant | 3,6-Dichloropyridazine-4-carbonyl chloride | 2.5 g | ClC=1N=NC(=CC1C(=O)Cl)Cl | C5HCl3N2O
reactant | diethylamine | 1.5 ml | C(C)NCC | C4H11N
reactant | water | O | H2O
solvent | DCM | 25 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | N,N-Diethyl-3,6-dichloropyridazine-4-carboxamide | 1.8 g | C(C)N(C(=O)C1=C(N=NC(=C1)Cl)Cl)CC | C9H11Cl2N3O
